US08431563B2
A 250 mL pressure vessel was charged with (S)-4-(tert-butoxycarbonyl)-2-methylpiperazine (4.17 g, 21.84 mmol, Sigma-Aldrich, St. Louis, Mo.), 5-bromo-2-chloropyrimidine (4.22 g, 21.84 mmol, Combi-Blocks, San Diego, Calif.), triethylamine (6.09 mL, 43.7 mmol), and 50 mL of dioxane. The tube was sealed and heated at 110° C. for 24 h. The mixture was diluted with water (100 mL) and extracted with EtOAc (2×150 mL). The organics were dried (MgSO4) and concentrated to give an oil that was purified via column chromatography (120 g silica, 0 to 30% EA/Hex) to give tert-butyl (3S)-4-(5-bromo-2-pyrimidinyl)-3-methyl-1-piperazinecarboxylate (6.15 g) as a white solid.

reactant | (S)-4-(tert-butoxycarbonyl)-2-methylpiperazine | 21.84 mmol, 4.17 g | C(C)(C)(C)OC(=O)N1C[C@@H](NCC1)C | C10H20N2O2
reactant | 5-bromo-2-chloropyrimidine | 21.84 mmol, 4.22 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | triethylamine | 43.7 mmol, 6.09 mL | C(C)N(CC)CC | C6H15N
reactant | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
product | tert-butyl (3S)-4-(5-bromo-2-pyrimidinyl)-3-methyl-1-piperazinecarboxylate | 6.15 g | BrC=1C=NC(=NC1)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)C | C14H21BrN4O2
